US09328106B2
To a solution of 2-(2-methyl-4-nitro-pyrazol-3-yl)-3,7-dihydro-2H-oxepin-4-one (440 mg, 0.42 mmol) in MeCN (3 mL) was added Amberlite IRA 900F resin (79 mg, 0.19 mmol) and trimethylsilylazide (1.2 mL, 9.35 mmol). The reaction mixture was heated at 65° C. behind a blast screen for 24 hr, cooled to room temperature and concentrated under reduced pressure. Purification via silica gel column chromatography (0-100% EtOAc/isohexane) gave pure 6-azido-2-(1-methyl-4-nitro-1H-pyrazol-5-yl)oxepan-4-one along with mixed fractions containing product and starting material. These were concentrated under reduced pressure and resubmitted to the same reaction conditions. Final purification via silica gel column chromatography (0-100% EtOAc/isohexane) gave 6-azido-2-(1-methyl-4-nitro-1H-pyrazol-5-yl)oxepan-4-one as a colourless solid (449 mg). To this solid (449 mg, 1.60 mmol) was added deoxo-Fluor® (50% in THF, 5 mL) and the mixture was stirred at room temperature for 18 hr. DCM (50 mL) was added and the reaction mixture cooled to 0° C. Saturated aqueous NaHCO3 (30 mL) was then carefully added. The aqueous layer was extracted with DCM (3×30 mL) and the combined organic layers were dried over Na2SO4 and concentrated under reduced pressure. Purification via silica gel column chromatography (0-100% EtOAc/isohexane) gave 5-(6-azido-4,4-difluoro-oxepan-2-yl)-1-methyl-4-nitro-pyrazole (Diastereomer 1-major) as a colourless solid (264 mg, 47% over two steps). 1H NMR (400 MHz, CDCl3) δ 8.03 (s, 1H), 5.67-5.58 (m, 1H), 4.18-3.91 (m, 3H), 4.08 (s, 3H), 2.79-2.63 (m, 1H), 2.63-2.40 (m, 3H).

reactant | 2-(2-methyl-4-nitro-pyrazol-3-yl)-3,7-dihydro-2H-oxepin-4-one | 0.42 mmol, 440 mg | CN1N=CC(=C1C1OCC=CC(C1)=O)[N+](=O)[O-] | C10H11N3O4
reactant | trimethylsilylazide | 9.35 mmol, 1.2 mL | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
solvent | MeCN | 3 mL | CC#N | C2H3N
product | 6-azido-2-(1-methyl-4-nitro-1H-pyrazol-5-yl)oxepan-4-one | N(=[N+]=[N-])C1CC(CC(OC1)C1=C(C=NN1C)[N+](=O)[O-])=O | C10H12N6O4
